US07956191B2
2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-N-(3-imidazol-1-yl-propyl)-isonicotinamide was synthesized according to the General Method 3, starting with 145 mg (0.33 mmol) of 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid and 103 mg (0.83 mmol) of 3-Imidazol-1-yl-propylamine. Yield: 55 mg, 30%, LC/MS: [7.31 min, 545 (M+1)]

reactant | 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 0.33 mmol, 145 mg | BrC=1C=C(C(=O)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H7BrFIN2O2
reactant | 3-Imidazol-1-yl-propylamine | 0.83 mmol, 103 mg | N1(C=NC=C1)CCCN | C6H11N3
product | 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-N-(3-imidazol-1-yl-propyl)-isonicotinamide | BrC=1C=C(C(=O)NCCCN2C=NC=C2)C(=CN1)NC1=C(C=C(C=C1)I)F | C18H16BrFIN5O
